US05053561
2,5-Dimethyl-3-hexene-2,5-diol was prepared by free-radical addition of isopropanol to 2-methyl-3-butyne-2-ol by the method of U.S. Pat. No. 3,352,929.

reactant | 2-methyl-3-butyne-2-ol | CC(C)(C#C)O | C5H8O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,5-Dimethyl-3-hexene-2,5-diol | CC(C)(C=CC(C)(O)C)O | C8H16O2
